US08138187B2
Successive Sn powder (3.00 g, 25.40 mmol) was added to a suspension of N,N-dimethyl-N-{4-phenyl-2′,3′,4′,9′-tetrahydrospiro[cyclohexane-1,1′-pyrano[3,4-b]indol]-4-yl}-amine (non-polar diastereomer, cf. WO2004043967) (0.72 g, 2.00 mmol) in conc. HCl (60 ml) in the course of 2 h. A clear solutions was formed during the addition, and was stirred at RT for a further 2 h. For working up, the mixture was rendered basic with saturated Na2CO3 solution, and EtOAc (50 ml) was added to the mixture formed. Since the phase separation was incomplete, the constituents insoluble both in H2O and in EtOAc were separated off by means of filtration. The filter cake was washed with EtOAc (5×20 ml) and the aqueous phase was extracted with the particular ethyl acetate fractions (5×). The combined organic extracts were dried over Na2SO4. After filtration of the drying agent, the solvent was removed on a rotary evaporator and the residue (600 mg) was recrystallized from toluene (100 ml). 2-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)ethanol was obtained as a diastereomer mixture (0.22 g, 30%). The solid (0.22 g, 0.60 mmol) was dissolved in boiling EtOH (30 ml), and citric acid (0.13 mg, 0.67 mmol), dissolved in hot EtOH (5 ml), was added. The ethanolic solution was concentrated (to approx. 10 ml) and ether (10 ml) was added. The precipitate formed was separated off by means of a frit and dried. The citrate (Ex. 1) (0.20 g, 60%, m.p.: from 114° C.) was obtained as a white solid.

reactant | N,N-dimethyl-N-{4-phenyl-2′,3′,4′,9′-tetrahydrospiro[cyclohexane-1,1′-pyrano[3,4-b]indol]-4-yl}-amine | 2.00 mmol, 0.72 g | CN(C1(CCC2(OCCC3=C2NC2=CC=CC=C32)CC1)C1=CC=CC=C1)C | C24H28N2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | HCl | 60 ml | Cl | ClH
product | 2-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)ethanol | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCO)C1=CC=CC=C1)C | C24H30N2O
